US07148174B2
trans-N,N′-Bis(2-diphenylphosphanylbenzylidene)cyclohexane-1,2-diamine
7.5 g of granulated molecular sieves (4A) are baked in a Schlenk tube. After addition of 50 ml of dichloromethane, 1.75 g (15 mmol) of trans-1,2-diaminocyclohexane and 8.7 g (30 mmol) of o-diphenylphosphinobenzaldehyde, the reaction mixture is stirred for 24 hours. After filtration through Celite, the solvent is removed and the residue is recrystallized with 50 ml of ethanol, giving the product in the form of a light-yellow powder in a yield of 8.6 g (13 mmol, 87%). 1H-NMR (400 MHz, CDCl3): δ=8.71 (d, J=4 Hz, 2H, N═C—H), 7.78–6.64 (m, 28 H, aromat. H), 3.16 (m, 2H, C—H), 1.66–1.31 (m, 8H, (CH2)4) ppm.

reactant | trans-1,2-diaminocyclohexane | 15 mmol, 1.75 g | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | o-diphenylphosphinobenzaldehyde | 30 mmol, 8.7 g | C1(=CC=CC=C1)P(C1=C(C=O)C=CC=C1)C1=CC=CC=C1 | C19H15OP
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | trans-N,N′-Bis(2-diphenylphosphanylbenzylidene)cyclohexane-1,2-diamine | C1(=CC=CC=C1)P(C1=C(C=N[C@H]2[C@@H](CCCC2)N=CC2=C(C=CC=C2)P(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)C1=CC=CC=C1 | C44H40N2P2
